US09302991B2
<Step-6>:(R)—N-(1-(6-(2,2-difluoroethoxy)-2-methoxypyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 73% yield (400 mg, clear colorless oil) from 1-(6-(2,2-difluoroethoxy)-2-methoxypyridin-3-yl)ethanone (380 mg, 1.6 mmol, Step-5) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-(2,2-difluoroethoxy)-2-methoxypyridin-3-yl)ethanone | 1.6 mmol, 380 mg | FC(COC1=CC=C(C(=N1)OC)C(C)=O)F | C10H11F2NO3
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(6-(2,2-difluoroethoxy)-2-methoxypyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 73% yield | FC(COC1=CC=C(C(=N1)OC)C(C)N[S@](=O)C(C)(C)C)F | C14H22F2N2O3S
